US04026869
5-nitrosalicylaldehyde was obtained upon reaction of salicylaldehyde with nitric acid according to the method described by G. Miller in Chem. Ber., 20, 1928 (1888). This 5-nitrosalicylaldehyde was made to react with chloromethyl-methyl ether according to D. Taylor and B. Davis, J. Org. Chem., 28, 1713 (1963) to form 4-chloromethyl-5-nitro-salicylaldehyde, which was converted into the 4-hydroxymethyl derivative by refluxing the chloromethyl derivative for 3 hours in water. The 4-hydroxymethyl-5-nitro-salicylaldehyde had a melting point of 135°C.

reactant | 5-nitrosalicylaldehyde | [N+](=O)([O-])C1=CC=C(C(C=O)=C1)O | C7H5NO4
reactant | chloromethyl-methyl ether | ClCOC | C2H5ClO
product | 4-chloromethyl-5-nitro-salicylaldehyde | ClCC=1C=C(C(C=O)=CC1[N+](=O)[O-])O | C8H6ClNO4
